US05679674
(3R)-3-(1-Pyrrolidinylmethyl)-4-[(1S)-3-oxo-5,6-dichloro-1-indanecarbonyl]thiomorpholine hydrochloride
A similar reaction to that of Example 1 was carried out by using 1.0 g of (3R)-3-(1-pyrrolidinyl)methylthiomorpholine, 2.0 ml of triethylamine and 3.0 g of 3-oxo-5,6-dichloro-1-indanecarboxylic acid chloride and the crude product was purified by column chromatography through silica gel using a 100:1 mixture of ethyl acetate and triethylamine as a mobile phase to give 0.82 g of the free basic form of the title compound from the less polar fractions. The product was treated with hydrogen chloride in a similar manner to the latter part of Example 1 to give 0.85 g of the title compound. m.p.: 257°-261° C. [α]D25 +26.8° (c=2.0, methanol)

reactant | (3R)-3-(1-pyrrolidinyl)methylthiomorpholine | 1.0 g | N1(CCCC1)C[C@H]1NCCSC1 | C9H18N2S
reactant | 3-oxo-5,6-dichloro-1-indanecarboxylic acid chloride | 3.0 g | O=C1CC(C2=CC(=C(C=C12)Cl)Cl)C(=O)Cl | C10H5Cl3O2
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | (3R)-3-(1-Pyrrolidinylmethyl)-4-[(1S)-3-oxo-5,6-dichloro-1-indanecarbonyl]thiomorpholine hydrochloride | Cl.N1(CCCC1)C[C@H]1N(CCSC1)C(=O)[C@H]1CC(C2=CC(=C(C=C12)Cl)Cl)=O | InChI=1S/C19H22Cl2N2O2S.ClH/c20-16-7-13-14(8-17(16)21)18(24)9-15(13)19(25)23-5-6-26-11-12(23)10-22-3-1-2-4-22;/h7-8,12,15H,1-6,9-11H2;1H/t12-,15+;/m1./s1
